US05236952
A suspension of 7.32 g of 2-bromo-3',4'-dihydroxy-5'-nitroacetophenone is treated with 4.06 g of 1-(3-pyridinyl)-2-thiourea in 100 ml of n-butanol and heated to boiling under reflux for 3 hours. After cooling to room temperature the crystals are filtered under suction and recrystallized from n-butanol. There is obtained 3-nitro-5-[2-(3-pyridylamino)-4-thiazolyl]pyrocatechol hydrobromide of m.p. >300°.

reactant | 2-bromo-3',4'-dihydroxy-5'-nitroacetophenone | 7.32 g | BrCC(=O)C1=CC(=C(C(=C1)[N+](=O)[O-])O)O | C8H6BrNO5
reactant | 1-(3-pyridinyl)-2-thiourea | 4.06 g | N1=CC(=CC=C1)NC(=S)N | C6H7N3S
solvent | n-butanol | 100 ml | C(CCC)O | C4H10O
product | 3-nitro-5-[2-(3-pyridylamino)-4-thiazolyl]pyrocatechol hydrobromide | Br.[N+](=O)([O-])C1=C(C(O)=CC(=C1)C=1N=C(SC1)NC=1C=NC=CC1)O | InChI=1S/C14H10N4O4S.BrH/c19-12-5-8(4-11(13(12)20)18(21)22)10-7-23-14(17-10)16-9-2-1-3-15-6-9;/h1-7,19-20H,(H,16,17);1H
